US05158943
Oxalyl chloride (14.8 g) and DMF (3 drops) were successively added dropwise to a solution of methyl 2-carboxymethylthio-3-(3,4-methylenedioxyphenyl)propionate (29.0 g) in tetrahydrofuran (THF) (200 ml), followed by stirring for 1.5 hours at room temperature and concentrated under reduced pressure. The residual oil was dissolved in dichloromethane (250 ml). To the solution was added dropwise tin(IV) chloride (SnCl4)(55.6 g) under ice-cooling. The mixture was stirred for an hour under ice-cooing, to which 2NHCl (100 ml) was added dropwise. The dichloromethane layer was separated, washed with water, dried (MgSO4) and distilled off the solvent to give crystals of methyl 7,8-methylenedioxy-5-oxo-1,2,4,5-tetrahydro-3-benzothiepine-2-carboxylate (17.0 g, 63%). Recrystallization from ethyl acetate gave colorless prisms.

reactant | Oxalyl chloride | 14.8 g | C(C(=O)Cl)(=O)Cl | C2Cl2O2
reactant | methyl 2-carboxymethylthio-3-(3,4-methylenedioxyphenyl)propionate | 29.0 g | C(=O)(O)CSC(C(=O)OC)CC1=CC2=C(C=C1)OCO2 | C13H14O6S
catalyst | DMF | 3 drops | CN(C)C=O | C3H7NO
solvent | tetrahydrofuran | 200 ml | O1CCCC1 | C4H8O
product | methyl 7,8-methylenedioxy-5-oxo-1,2,4,5-tetrahydro-3-benzothiepine-2-carboxylate | 17.0 g, 63% | C1OC2=CC3=C(CC(SCC3=O)C(=O)OC)C=C2O1 | C13H12O5S
